US07919519B2
A mixture of K3PO4 (12 g, 55 mmol), S-Phos (0.45 g, 1.1 mmol), and palladium acetate (0.21 g, 0.91 mmol) in THF (55 mL) was prepared in a sealed tube. The mixture was treated with 2-chloro-6-iodopyridin-3-ol (4.67 g, 18 mmol) and β-benzyl-9-BBN (0.5M solution in THF, 73 mL, 37 mmol) and heated to 80° C. for 2 h. The crude mixture was diluted with EtOAc, washed with 2M aqueous NaOH, brine, dried over MgSO4, and evaporated. Purification by flash chromatography (EtOAc/hexanes) gave 6-benzyl-2-chloropyridin-3-ol. 1H NMR (300 MHz, CDCl3) δ ppm 7.11-7.41 (m, 6H), 6.94 (d, J=8.2 Hz, 1H), 5.49 (br. s, 1H), 4.06 (s, 2H). MS (ESI) m/z: Calculated; 219.1 Observed: 220.0 (M++1).

reactant | K3PO4 | 55 mmol, 12 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 1.1 mmol, 0.45 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | 2-chloro-6-iodopyridin-3-ol | 18 mmol, 4.67 g | ClC1=NC(=CC=C1O)I | C5H3ClINO
reactant | β-benzyl-9-BBN | 37 mmol, 0.5M, 73 mL | B1(C2CCCC1CCC2)CC3=CC=CC=C3 | C15H21B
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.91 mmol, 0.21 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-benzyl-2-chloropyridin-3-ol | C(C1=CC=CC=C1)C1=CC=C(C(=N1)Cl)O | C12H10ClNO
